US08895582B2
To a solution (S)-tert-butyl 5-((tert-butyldimethylsilyloxy)methyl)-3,3-dimethyl-2-oxopyrrolidine-1-carboxylate (2.7 g, 7.56 mmol) in THF (27 mL) and water (3 mL) was added LiOH (1 N, 15.2 mL, 15.2 mmol). The reaction mixture was stirred at RT overnight and concentrated. The residue was dissolved in water (20 mL), acidified with 10% citric acid to pH 6-7, and extracted with EtOAc. The organic layer was dried over Na2SO4, filtered, and concentrated to give (S)-4-(tert-butoxycarbonylamino)-5-(tert-butyldimethylsilyloxy)-2,2-dimethylpentanoic acid (2.6 g, 91.7%), which was used without further purification. LRMS (M-Boc+H+) m/z 276.2.

reactant | (S)-tert-butyl 5-((tert-butyldimethylsilyloxy)methyl)-3,3-dimethyl-2-oxopyrrolidine-1-carboxylate | 7.56 mmol, 2.7 g | [Si](C)(C)(C(C)(C)C)OC[C@@H]1CC(C(N1C(=O)OC(C)(C)C)=O)(C)C | C18H35NO4Si
reactant | LiOH | 15.2 mmol, 1 N, 15.2 mL | [Li+].[OH-]
solvent | THF | 27 mL | C1CCOC1 | C4H8O
solvent | water | 3 mL | O | H2O
product | (S)-4-(tert-butoxycarbonylamino)-5-(tert-butyldimethylsilyloxy)-2,2-dimethylpentanoic acid | 2.6 g, 91.7% | C(C)(C)(C)OC(=O)N[C@@H](CC(C(=O)O)(C)C)CO[Si](C)(C)C(C)(C)C | C18H37NO5Si
